US04244966
3-Chloro-2-methylbenzonitrile (II: R1 =3-Cl and Y=CN)
Sodium cyanide (58 g, 1.18 mol) in 90 ml of water is added to cuprous chloride (44 g, 0.44 mol) in 180 ml of water while stirring mechanically in a 5 l. 3-necked flask. Evolution of heat results and the cuprous chloride dissolves. This is then cooled in an ice bath to 0° C. A milky suspension of cuprous cyanide results. To this is added 90 ml of toluene. 6 N Hydrochloric acid (125 ml) is added slowly to 3-chloro-2-methylaniline (50 g, 0.35 mol) in a 2 l. erlenmeyer flask, while cooling and swirling. A solution of sodium nitrite (25 g, 0.36 mol) in 70 ml of water is added dropwise to the hydrochloride suspension. Ice is added when required, keeping the temperature at 0° C. Anhydrous sodium carbonate is added until the diazonium hydrochloride solution is neutral to pH paper. This is then added slowly to the cold stirring cuprous cyanide suspension, the temperature not being allowed to rise above 5° C. The reaction is then stirred at 0°-5° C. for 0.5 hr, allowed to reach room temperature over a 2 hr period and then heated to 50° C. on the steam bath. After remaining at room temperature overnight, the product is steam distilled off. The distillate is extracted with benzene, washed with 10% hydrochloric acid, dried and evaporated to afford 28 g of the title compound that solidified on standing.

reactant | Sodium cyanide | 1.18 mol, 58 g | [C-]#N.[Na+]
reactant | Hydrochloric acid | 6 N, 125 ml | Cl | ClH
reactant | 3-chloro-2-methylaniline | 0.35 mol, 50 g | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | sodium nitrite | 0.36 mol, 25 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 90 ml | O | H2O
solvent | water | 180 ml | O | H2O
solvent | water | 70 ml | O | H2O
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Chloro-2-methylbenzonitrile | 28 g | ClC=1C(=C(C#N)C=CC1)C | C8H6ClN
